US05206231
A mixture of 2 g (8.4 mmol) of 1,2,3,4,5,6-hexahydro-1-phenyl-2,5-benzodiazocine and 1.0 g (9.2 mmol) of benzaldehyde in 40 mL of ethanol was refluxed for 30 min, cooled on ice and the product filtered off. There was obtained 2.33 g of 3,4-dihydro-1,11-diphenyl-2,5-methano-1H,6H-2,5-benzodiazocine, mp 175°-176°.

reactant | 1,2,3,4,5,6-hexahydro-1-phenyl-2,5-benzodiazocine | 8.4 mmol, 2 g | C1(=CC=CC=C1)C1NCCNCC2=C1C=CC=C2 | C16H18N2
reactant | benzaldehyde | 9.2 mmol, 1.0 g | C(C1=CC=CC=C1)=O | C7H6O
solvent | ethanol | 40 mL | C(C)O | C2H6O
product | 3,4-dihydro-1,11-diphenyl-2,5-methano-1H,6H-2,5-benzodiazocine | 2.33 g | C1(=CC=CC=C1)C1N2CCN(CC3=C1C=CC=C3)C2C2=CC=CC=C2 | C23H22N2
